US03941803
In the manner given in Example 25, 2'-chloro-5-nitro-2-[5-methyl-2-(phthalimidomethyl)imidazol-1-yl]benzophenone in ethanol is heated with hydrazine to give 8-nitro-6-(o-chlorophenyl)-1-methyl-4H-imidazo[1,2-a][1,4]benzodiazepine

reactant | 2'-chloro-5-nitro-2-[5-methyl-2-(phthalimidomethyl)imidazol-1-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)[N+](=O)[O-])N1C(=NC=C1C)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C26H17ClN4O5
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 8-nitro-6-(o-chlorophenyl)-1-methyl-4H-imidazo[1,2-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=CN3)C)C3=C(C=CC=C3)Cl)C1 | C18H13ClN4O2
